US04812590
Step A: N-tert-butoxycarbonyl-N,N'-diethylethylenediamine
A solution of di-tert.-butyldicarbonate (4.88 g, 22 mmol) in tetrahydrofuran (35 mL) was added slowly to a stirred, cooled solution of N,N'-diethylethylenediamine (10 g, 86 mmol) in tetrahydrofuran (140 mL). After stirring overnight at 20°-25°, solvent was removed under reduced pressure and the residue partitioned between ethyl acetate and brine. The organic extract was washed again with brine, dried (Na2SO4), filtered and concentrated. Flash chromatography of the residue over silica gel and elution with 10%-20% MEOH-90%-80% chloroform gave 3.94 g of pure mono BOC-protected N,N'-diethylethylene diamine.

reactant | di-tert.-butyldicarbonate | 22 mmol, 4.88 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | N,N'-diethylethylenediamine | 86 mmol, 10 g | C(C)NCCNCC | C6H16N2
solvent | tetrahydrofuran | 35 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 140 mL | O1CCCC1 | C4H8O
product | N-tert-butoxycarbonyl-N,N'-diethylethylenediamine | C(C)(C)(C)OC(=O)N(CCNCC)CC | C11H24N2O2
